US07560569B2
In a similar manner to Example 4, (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazol-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (74.9 mg) and (3R)—N,N-diethyl-1-(piperidin-4-yl)piperidine-3-carboxamide (61.0 mg) were used to obtain (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-[4-[(3R)-3-(N,N-diethylcarbamoyl)piperidin-1-yl]piperidin-1-yl]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (71.7 mg).

reactant | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazol-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 74.9 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)ON2N=NC1=C2C=CC=C1)CC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C30H31FN6O5
reactant | (3R)—N,N-diethyl-1-(piperidin-4-yl)piperidine-3-carboxamide | 61.0 mg | C(C)N(C(=O)[C@H]1CN(CCC1)C1CCNCC1)CC | C15H29N3O
product | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-[4-[(3R)-3-(N,N-diethylcarbamoyl)piperidin-1-yl]piperidin-1-yl]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 71.7 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)N2CCC(CC2)N2C[C@@H](CCC2)C(N(CC)CC)=O)CC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C39H55FN6O5
